US09108936B2
To a solution of trifluoro-methanesulfonic acid [2-[(4-chlorophenyl)-methyl-carbamoyl]-3-methyl-5-morpholin-4-yl-phenyl]ester (0.20 g, 0.4 mmol) in dioxane (10 ml) are added 2,6-di-tert-butyl-4-methylphenol (few crystals), lithium chloride (0.052 g, 1.22 mmol) and tributylvinyl tin (0.13 ml, 0.45 mmol). The mixture is degassed and flushed with argon for 30 min followed by the addition of tetrakis(triphenylphosphin)palladium(0) (0.01 g, 0.008 mmol). The resulting mixture is heated at 110° C. for 16 h. The reaction mixture is concentrated, diluted with water (10 ml) and extracted with ethyl acetate (3×30 ml). The organic layer is washed with water (20 ml), saturated potassium fluoride solution (2×20 ml), brine (20 ml) and dried over anhydrous sodium sulfate. Evaporation under vacuum afforded the crude product, which is purified by column chromatography (silica gel-10% KF, 30% ethyl acetate/hexane) to yield N-[(4-chlorophenyl)-methyl]-2-methyl-4-morpholin-4-yl-6-vinyl-benzamide (0.12 g, 0.32 mmol, 79%).

reactant | trifluoro-methanesulfonic acid [2-[(4-chlorophenyl)-methyl-carbamoyl]-3-methyl-5-morpholin-4-yl-phenyl]ester | 0.4 mmol, 0.20 g | ClC1=CC=C(C=C1)N(C(=O)C1=C(C=C(C=C1C)N1CCOCC1)OS(=O)(=O)C(F)(F)F)C | C20H20ClF3N2O5S
reactant | 2,6-di-tert-butyl-4-methylphenol | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | lithium chloride | 1.22 mmol, 0.052 g | [Cl-].[Li+]
reactant | tributylvinyl tin | 0.45 mmol, 0.13 ml | C(CCC)C(=C(CCCC)CCCC)[Sn]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | N-[(4-chlorophenyl)-methyl]-2-methyl-4-morpholin-4-yl-6-vinyl-benzamide | 0.32 mmol, 0.12 g, 79% | ClC1=CC=C(C=C1)CNC(C1=C(C=C(C=C1C=C)N1CCOCC1)C)=O | C21H23ClN2O2
